US07425358B2
Preparation of 3-(3′-methoxyphenyloxy)phenol
In a round-bottomed flask fitted with a Vigreux column, a reflux divider and a condenser, 77.08 g (0.70 mol.) of resorcinol are dissolved, under argon, in 250 ml of dry pyridine. 84.3 g of sodium methoxide solution in methanol (30% solution) are added dropwise to the reaction mixture, with stirring. Methanol is then removed from the reaction mixture by distillation. The reflux divider is then closed and 261.9 g (1.40 mol.) of 3-bromoanisole are added dropwise. 3.5 g (0.04 mol.) of CuCl are also added. The mixture is allowed to boil under reflux for 6 hours. Pyridine is then distilled off via the opened reflux divider, during which the sump temperature rises to 150° C. The mixture is then allowed to cool and the residue is stirred into 250 ml of semi-concentrated hydrochloric acid. The mixture is extracted with 300 ml of toluene. The organic phase is washed first with semi-concentrated hydrochloric acid and then a further two times with NaOH solution (10%). The combined alkaline phases are acidified with dilute HCl and extracted with a diethyl ether/toluene mixture (1:1). After removal of the solvent, 65.5 g of a brown oil are obtained.

reactant | resorcinol | 0.70 mol, 77.08 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium methoxide | 84.3 g | C[O-].[Na+]
reactant | 3-bromoanisole | 1.40 mol, 261.9 g | BrC=1C=C(C=CC1)OC | C7H7BrO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
catalyst | CuCl | 0.04 mol, 3.5 g | Cl[Cu]
product | 3-(3′-methoxyphenyloxy)phenol | COC=1C=C(C=CC1)OC=1C=C(C=CC1)O | C13H12O3
